US06100275
(±)-3-(4-Chlorophenyl)-8-azabicyclo[3.2.1]oct-2-ene Malonate
To a stirred solution of 3-(4-chlorophenyl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene (2 g, 8.5 mmol) in anhydrous 1,2-dichloroethane (20 mL) under a nitrogen atmosphere was added 1-chloroethyl chloroformate (1.25 mL, 11.6 mmol). The reaction mixture was heated at reflux overnight, then added 1-chloroethyl chloroformate (1 mL, 9.3 mmol), once again the reaction mixture was heated at reflux overnight. The reaction mixture was concentrated to an oil, the oil was dissolved in methanol (25 mL), this solution was heated at reflux for 2 hours and then concentrated to an oil. The residue was dissolved in water and added concentrated NH4OH until pH=10, the water phase was extracted with diethyl ether. The organic phase was dried with magnesium sulphate and concentrated to dryness. The residue was chromatographed over silica gel (dichloromethane/acetone/methanol, 4/1/1 (v/v)). The product fractions was concentrated to an oil, the oil was dissolved in ethanol (96%) and malonic acid (0.55 g, 5.3 mmol) in ethanol (96%) was added, this solution was concentrated to an oil, the oil was trituated in diethyl ether, the title compound precipitated as powder and was isolated by filtration. Yield (1.32 g, 48%), m.p. 136.1-138° C.

reactant | 3-(4-chlorophenyl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene | 8.5 mmol, 2 g | ClC1=CC=C(C=C1)C1=CC2CCC(C1)N2C | C14H16ClN
reactant | 1-chloroethyl chloroformate | 11.6 mmol, 1.25 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 1-chloroethyl chloroformate | 9.3 mmol, 1 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | malonic acid | 5.3 mmol, 0.55 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
solvent | ethanol | C(C)O | C2H6O
product | (±)-3-(4-Chlorophenyl)-8-azabicyclo[3.2.1]oct-2-ene Malonate | C(CC(=O)O)(=O)O.ClC1=CC=C(C=C1)C1=CC2CCC(C1)N2 | InChI=1S/C13H14ClN.C3H4O4/c14-11-3-1-9(2-4-11)10-7-12-5-6-13(8-10)15-12;4-2(5)1-3(6)7/h1-4,7,12-13,15H,5-6,8H2;1H2,(H,4,5)(H,6,7)
